* SpiceNetList
* 
* Exported from board.sch at 3/14/2020 1:54 AM
* 
* EAGLE Version 9.6.0 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R2 0 N_1 1 
C_C1 N_1 0 220nF 
V_V2 N_3 0 
R_R1 N_3 N_1 25k 

* --------- simulation ---------
.control
set filetype=ascii
OP
write board.sch.sim
.endc



.END










