* SpiceNetList
* 
* Exported from board.sch at 3/14/2020 1:54 AM
* 
* EAGLE Version 9.6.0 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
R_R2 0 N_1 1 
C_C1 N_1 0 220nF 
V_V2 N_3 0 
R_R1 N_3 N_1 25k 

* --------- simulation ---------
.print DC V(N_1) I(V_V2)
.print AC V(N_1) I(V_V2)
.print TRAN V(N_1) I(V_V2)
.END










